US07517910B2
3-(4-{[4-({5-[(E)-2-phenylvinyl]-3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)benzyl]oxy}phenyl)propanoic acid
Methyl 3-(4-{[4-({5-[(E)-2-phenylvinyl]-3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)benzyl]oxy}phenyl)propanoate (250 mg, 0.419 mmol) was dissolved in a mixed solvent of methanol (5 mL) and tetrahydrofuran (5 mL), and 2 N aqueous sodium hydroxide solution (2 mL) was added. The mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with water, and neutralized with 1 N hydrochloric acid. The mixture was extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (Manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated under reduced pressure to give the title compound (220 mg, yield 90%) as colorless crystals. MS: m/z 583 (MH+), 1H NMR (DMSO-d6) δ: 2.45 (2H, t, J=7.5 Hz), 2.72 (2H, t, J=7.5 Hz), 5.00 (2H, s), 5.65 (2H, s), 6.86 (2H, d, J=8.5 Hz), 7.09 (2H, d, J=8.5 Hz), 7.22-7.46 (10H, m), 7.64 (2H, d, J=7.4 Hz), 7.77 (2H, d, J=8.2 Hz), 8.05 (2H, d, J=8.0 Hz), 12.05 (1H, s).

reactant | Methyl 3-(4-{[4-({5-[(E)-2-phenylvinyl]-3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)benzyl]oxy}phenyl)propanoate | 0.419 mmol, 250 mg | C1(=CC=CC=C1)/C=C/C1=CC(=NN1CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1)C1=CC=C(C=C1)C(F)(F)F | C36H31F3N2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2 N, 2 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(4-{[4-({5-[(E)-2-phenylvinyl]-3-[4-(trifluoromethyl)phenyl]-1H-pyrazol-1-yl}methyl)benzyl]oxy}phenyl)propanoic acid | 220 mg, yield 90% | C1(=CC=CC=C1)/C=C/C1=CC(=NN1CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1)C1=CC=C(C=C1)C(F)(F)F | C35H29F3N2O3
